US04736056
Into a 500 milliliter four-necked round-bottom reaction flask equipped with a mechanical stirrer, Dean-Stark trap/condenser, thermometer and heating mantle was added 320 grams (2.0 mol) of diethyl malonate and 37.2 grams (0.2 mol) of 4-bromo-2-methylaniline. The resulting mixture was heated at a temperature of 160° C. for a period of four hours and then cooled to a temperature of about 0° C. to form a precipitate. After filtering on a fritted glass funnel, the wet-cake was washed with heptane and air dried to give 37.6 grams (0.125 mol) of ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate. Liquid chromatographic analysis indicated 97 percent purity by comparison with an authenic sample of pure material. NMR analysis of the product indicated the following: 'H NMR (CDCl3) δ9.52 (1H, bs), 8.02 (1H, d, J=9 Hz), 7.2-7.5 (2H, m), 4.30 (2H, q, J=7 Hz), 3.50 (2H, s), 2.30 (3H, s), 1.30 (3H, t, J=7 Hz).

reactant | diethyl malonate | 2.0 mol, 320 grams | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-bromo-2-methylaniline | 0.2 mol, 37.2 grams | BrC1=CC(=C(N)C=C1)C | C7H8BrN
product | ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate | 0.125 mol, 37.6 grams | BrC1=CC(=C(C=C1)NC(CC(=O)OCC)=O)C | C12H14BrNO3
